US08377970B2
Step-2: N-{4-[4-chloro-5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-3-oxobutanamide (1.6 g, 3.98 mmol) and N,N-Dimethylformamide dimethylacetal (2.6 g, 21.9 mmol) were mixed and stirred at rt for overnight. Workup (AcOEt/H2O) followed by purification on 60-120 mesh silicagel using AcOEt and Peteher (1:1) as eluent afforded N-{4-[4-chloro-5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-2-[(dimethylamino)methylene]-3-oxobutanamide (1.3 g).

reactant | N-{4-[4-chloro-5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-3-oxobutanamide | 3.98 mmol, 1.6 g | ClC=1C(=NN(C1C1CC1)C1=CC=C(C=C1)NC(CC(C)=O)=O)C(F)(F)F | C17H15ClF3N3O2
reactant | N,N-Dimethylformamide dimethylacetal | 21.9 mmol, 2.6 g | COC(N(C)C)OC | C5H13NO2
product | N-{4-[4-chloro-5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-2-[(dimethylamino)methylene]-3-oxobutanamide | 1.3 g | ClC=1C(=NN(C1C1CC1)C1=CC=C(C=C1)NC(C(C(C)=O)=CN(C)C)=O)C(F)(F)F | C20H20ClF3N4O2
